US03959309
To a solution of 14.1 g. of 4-dimethylaminocyclohexanone in 100 ml. of a 6-N solution of hydrogen chloride in absolute ethyl alcohol was added 23.5 g. of 4-phenoxyphenylhydrazine hydrochloride and the mixture was heated at reflux for 6 hours. The mixture was filtered, the filtrate was made alkaline with 10% potassium hydroxide and extracted with chloroform, and the chloroform extract was washed with water and evaporated to dryness under reduced pressure to give 3-(dimethylamino)-6-phenoxy-1,2,3,4-tetrahydrocarbazole.

reactant | 4-dimethylaminocyclohexanone | CN(C1CCC(CC1)=O)C | C8H15NO
reactant | hydrogen chloride | Cl | ClH
reactant | 4-phenoxyphenylhydrazine hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)NN
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(dimethylamino)-6-phenoxy-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC=C(C=C3C2C1)OC1=CC=CC=C1)C | C20H22N2O
